US05488149
150 g of 4-bromo-2-fluorobiphenyl, 89.6 g of isopropenyl acetate, 258 ml of tributyltin butoxide and 4.7 g of a palladium chloride-tri(o-phenyl)phosphine complex were added to 300 ml of toluene and the mixture was stirred under heating at 80° C. for 2 hours under a nitrogen atmosphere. The reaction solution was left to cool to room temperature. Then, 1 l of ethyl acetate and 500 ml of a saturated potassium fluoride aqueous solution were added thereto, and the mixture was vigorously stirred. Insoluble matters were separated by filtration, and then the organic layer was collected by separation. The obtained organic layer was post-treated by a conventional method. The product was treated with hexane to obtain 106 g (yield: 78%) of 1-(2-fluoro-4-biphenylyl)-2-propanone.

reactant | 4-bromo-2-fluorobiphenyl | 150 g | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
reactant | isopropenyl acetate | 89.6 g | C(C)(=O)OC(=C)C | C5H8O2
reactant | tributyltin butoxide | 258 ml | [O-]CCCC.C(CCC)[Sn+](CCCC)CCCC
reactant | potassium fluoride | 500 ml | [F-].[K+]
solvent | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-fluoro-4-biphenylyl)-2-propanone | 106 g, yield: 78% | FC1=C(C=CC(=C1)CC(C)=O)C1=CC=CC=C1 | C15H13FO
